US07674807B2
(3-Methyl-4-nitrophenyl)-hydrazine (3.0 g) and hexafluoroacetylacetone (3.7 g) were dissolved in toluene and the solution was refluxed for 6 hours. After cooling, the solvent was distilled off and the obtained residue was purified by silica gel column chromatography to obtain 1-(3-methyl-4-nitrophenyl)-3,5-bis(trifluoromethyl)-1H-pyrazole (5.6 g). nD20 1.4890.

reactant | (3-Methyl-4-nitrophenyl)-hydrazine | 3.0 g | CC=1C=C(C=CC1[N+](=O)[O-])NN | C7H9N3O2
reactant | hexafluoroacetylacetone | 3.7 g | C(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C5H2F6O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(3-methyl-4-nitrophenyl)-3,5-bis(trifluoromethyl)-1H-pyrazole | 5.6 g | CC=1C=C(C=CC1[N+](=O)[O-])N1N=C(C=C1C(F)(F)F)C(F)(F)F | C12H7F6N3O2
